US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, pentane-2,3-dione-2-oxime and 4-isopropylbenzaldehyde gave 5-ethyl-4-iodomethyl-2-(4-isopropylphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | pentane-2,3-dione-2-oxime | CC(C(CC)=O)=NO | C5H9NO2
reactant | 4-isopropylbenzaldehyde | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
product | 5-ethyl-4-iodomethyl-2-(4-isopropylphenyl)oxazole | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(C)C)CI | C15H18INO
